US04818755
Step 1. 6-(α-Bromobutanoyl)-3,4-dihydrocarbostyril
A solution of α-bromobutanoyl chloride (78.9 g) in methylene chloride (50 ml) is added to a stirred mixture of 3,4-dihydrocarbostyril (31.3 g) and aluminum chloride (59.6 g) in methylene chloride (300 ml). The reaction mixture is stirred at reflux for about 3.5 hours, cooled, poured into a mixture of ice and water, resulting in the formation of a white precipitate which is filtered, washed with water, dried, and recrystallized from isopropanol, affording the desired product.

reactant | α-bromobutanoyl chloride | 78.9 g | BrC(C(CC)Cl)=O | C4H6BrClO
reactant | 3,4-dihydrocarbostyril | 31.3 g | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
reactant | aluminum chloride | 59.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 6-(α-Bromobutanoyl)-3,4-dihydrocarbostyril | BrC(C(CC)C=1C=C2CCC(NC2=CC1)=O)=O | C13H14BrNO2
